### PR TITLE
Lia:  various impovements (support for #8764, fix #9268 and  #9615)

### LINKED ISSUE #9268: lia works less well with universe polymorphism than omega
#### Version

8.8.2

#### Description of the problem

```
Require Import Coq.ZArith.ZArith.
Require Import Coq.micromega.Lia.

Local Open Scope Z_scope.

Definition Register := Z%type.

Definition Opcode := Z%type.

Inductive InstructionI : Type
  := Lb : Register -> Register -> Z -> InstructionI
  |  InvalidI : InstructionI.

Inductive Instruction : Type
  := IInstruction : InstructionI -> Instruction.

Definition funct3_LB : Z := 0.

Definition opcode_LOAD : Opcode := 3.

Set Universe Polymorphism.

Definition MachineInt := Z.

Definition funct3_JALR := 0.

Axiom InstructionMapper: Type -> Type.

Definition apply_InstructionMapper(mapper: InstructionMapper Z)(inst: Instruction): Z :=
  match inst with
  | IInstruction   InvalidI   => 2
  | IInstruction   (Lb  rd rs1 oimm12) => 3
   end.

Axiom Encoder: InstructionMapper MachineInt.

Definition encode: Instruction -> MachineInt := apply_InstructionMapper Encoder.

Lemma foo: forall (ins: InstructionI),
    0 <= encode (IInstruction ins) ->
    0 <= encode (IInstruction ins) .
Proof.
  Set Printing Universes.
  intros.
```

opens the following goal:

```
  ins : InstructionI
  H : 0 <= encode@{Top.1295} (IInstruction ins)
  ==============================================
  0 <= encode@{Top.1296} (IInstruction ins)
 ```

On this goal, `lia` fails with "Cannot find witness", while `omega` and `assumption` succeed.

#### Desired behavior:

`lia` should solve the goal.

/cc @andres-erbsen

### LINKED ISSUE #9615: lia regression since 8.9
#### Description of the problem

```coq
Require Import ZArith Lia. Local Open Scope Z_scope.
Goal
  forall q r lx : Z,
  8 * lx = 2 ^ 4 * q + r ->
  0 <= r < 2 ^ 4 ->
  forall q0 r0 : Z,
  q * 2 ^ 3 = 8 * q0 + r0 -> 0 <= r0 < 8 -> q * 2 ^ 3 = 8 * q0.
Proof.
  intros.
  Lia.lia. (* runs a long time, failed on travis *)
Qed.
```

#### Coq Version

8.9 good, c899b3085f2e15ef05fe3a66470df9bc25eeda59 bad, current-ish master bad (https://github.com/mit-plv/bedrock2/runs/66542251)

this is currently breaking bedrock2 build, I will look for a workaround tomorrow (it's 1am here).

### PR DESCRIPTION
**Pull request by fajb**
The PR improves several orthogonal issues raised by recent bug reports and PR.

PR #8764 provides support for decimal constants using operators unknown to the lia reification.
commit daeb252 solves the issue by allowing additional operators to be declared using type-classes.

bug #9268 reports limitation of the reification regarding universes.
commit 31f99d1 solves the issue by unifying universes at reification times and threading along the evar_map. A more radical approach proposed by #9291 was to ignore universes. 

bug #9615 reports regressions 
commit 8b6dad3 improves simplex-based decision procedure.
Theoretically, the current algorithm is complete for linear integer arithmetics.
Any failure to solve a linear goal should be considered a bug... 

**Kind:** bug fix 

Fixes #9268 and fixes #9615

### CODE REVIEW

**Comment by vbgl** [comment]
I’ve just rebased and fixed the test-suite.

**Comment by fajb** [comment]
thanks @vbgl .

File: plugins/micromega/Tauto.v [hunk 1]
```diff
@@ -10,7 +10,7 @@
 (*                                                                      *)
 (* Micromega: A reflexive tactic using the Positivstellensatz           *)
 (*                                                                      *)
-(*  Frédéric Besson (Irisa/Inria) 2006-20011                            *)
```
Comment (vbgl) [inline plugins/micromega/Tauto.v]: This change is a bit too optimistic ;-)

File: plugins/micromega/ZMicromega.v [hunk 2]
```diff
@@ -14,13 +14,14 @@
 (*                                                                      *)
 (************************************************************************)
 
+Require Import List.
+Require Import Bool.
 Require Import OrderedRing.
 Require Import RingMicromega.
+Require Import FMapPositive.
```
Comment (vbgl) [inline plugins/micromega/ZMicromega.v]: This break CompCert!

I’d like to argue that this is a Coq bug.

File: plugins/micromega/ZMicromega.v [hunk 3]
```diff
@@ -14,13 +14,15 @@
 (*                                                                      *)
 (************************************************************************)
 
+Require Import List.
+Require Import Bool.
 Require Import OrderedRing.
 Require Import RingMicromega.
+Require  FSetPositive FSetEqProperties.
+Remove Hints Morphisms.Proper : core.
```
Comment (vbgl) [inline plugins/micromega/ZMicromega.v]: Instead of this `Remove Hints`, you can use this commit: 230899e87c51c12b2f21b6fedc414d099a1425e4 It should not break anything.

Comment (fajb) [reply plugins/micromega/ZMicromega.v]: manually merged.

**Comment by vbgl** [comment]
Is this still a draft? Looks pretty good to me.

**Comment by fajb** [comment]
@vbgl  I have clicked the "ready for review" button an just pushed a squashed  version.

**Review by vbgl — APPROVED** [review]

**Comment by vbgl** [comment]
A few conflicts have just appeared.

**Comment by vbgl** [comment]
Can you please rebase to solve the conflicts? I’ll then merge. Thanks.

File: plugins/micromega/DeclConstant.v [hunk 4]
```diff
@@ -0,0 +1,68 @@
...
+(* <O___,, *       (see CREDITS file for the list of authors)           *)
+(*   \VV/  **************************************************************)
+(*    //   *    This file is distributed under the terms of the         *)
+(*         *     GNU Lesser General Public License Version 2.1          *)
+(*         *     (see LICENSE file for the text of the license)         *)
+(************************************************************************)
+(*                                                                      *)
+(* Micromega: A reflexive tactic using the Positivstellensatz           *)
+(*                                                                      *)
+(*  Frédéric Besson (Irisa/Inria) 20019                                 *)
```
Comment (Zimmi48) [inline plugins/micromega/DeclConstant.v]:
```suggestion
(*  Frédéric Besson (Irisa/Inria) 2019                                  *)
```

**Review by Zimmi48 — APPROVED** [review]

**Comment by maximedenes** [comment]
This PR seems related to https://github.com/coq/coq/issues/11063. Was it benchmarked, since it changes the decision procedure used, IIUC?

**Comment by maximedenes** [comment]
Running a bench now at https://ci.inria.fr/coq/view/benchmarking/job/benchmark-part-of-the-branch/815/console

**Comment by maximedenes** [comment]
This PR seems to have introduced a 19% slowdown on Flocq, and a 7% slowdown on coqutil. Do you know what could have caused it, @fajb ? Does it mean part of this PR should be reverted?

Unfortunately, this PR mixes many changes.

**Comment by maximedenes** [comment]
Also, the PR description mentions some commits, but there seems to be only one actually in the PR. What happened?

**Comment by fajb** [comment]
I guess commits were eventually squashed.
There may be several combining factors but most if not all have a negative performance impact.

My hope is that the solution is  PR  #11047. I am rather confident it solves the performance issue.
